US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(3-ethyl-6-methylpyridin-2-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine and 3-ethyl-6-methylpyridin-2-amine, and making non-critical variations provided the title compound as a oil: 1H NMR (DMSO-d6) δ 0.95, 1.15, 2.33, 2.31, 2.51, 2.70, 6.95, 7.51, 7.75, 8.57; HRMS (ESI+) calcd for C22H24Cl2N4 (M+H)+ 415.1456, found 415.1442.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine | BrC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C14H13BrCl2N2
reactant | 3-ethyl-6-methylpyridin-2-amine | C(C)C=1C(=NC(=CC1)C)N | C8H12N2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(3-ethyl-6-methylpyridin-2-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1=NC(=CC=C1CC)C)CC | C22H24Cl2N4
